US04587341
Ethyl 5,8-dimethoxy-3-quinolinecarboxylate was formed as described in the literature (E. H. Erickson, C. F. Hainline, L. S. Lenon, et al. J. Med. Chem. 1979, 22, 816). 2,5-Dimethoxyaniline and diethyl ethoxymethylenemalonate condense and then cyclise at high temperature (250° ) in diphenyl ether to form ethyl 1,4-dihydro-5,8-dimethoxy-4-oxo-3-quinolinecarboxylate which is chlorinated at the 4-position with phosphorus oxychloride to give ethyl 4-chloro-5,8-dimethoxy-3-quinolinecarboxylate. The dehalogenation of this quinoline (20.34 g, 0.069 mol) in 150 ml of absolute ethanol with 1 g of 5% Pd/C and 22.53 ml of triethylamine (0.156 mol) was done with a Parr hydrogenator apparatus which gave the correct product, ethyl 5,8-dimethoxy-3-quinolinecarboxylate, as well as the 1,4-dihydro and the 1,2,3,4-tetrahydro quinoline products. This result of further reduction to the 1,4-dihydro product was indicated in the article listed above on page 817, but the formation of the 1,2,3,4-tetrahydro product had not been mentioned there. These three quinoline products were separated on a silica gel column which was eluted with hexane, followed by hexane:ethyl acetate/4:1 and 1:1, giving 0.46 g (2.6% yield) of the title compound, NMR: CDCl3 δ1.23 (tr, 3, CH2Me), 2.94 (br-m, 2, CH2), 3.2-3.6 (m, 3, CH2, CH), 3.76 (s, 6, (OMe)2), 4.21 (quartet, 2, CH2Me), 4.2 (br, 1, NH), 6.12 (d, 1, Ar), 6.57 (d, 1, Ar); 3.31 g of the 1,4-dihydro quinoline product (18.5%), NMR: CDCl3 δ 1.28 (tr, 3, CH2Me), 3.61 (s, 2, CH2), 3.73 (s, 6, (OMe)2), 4.19 (quartet, 2, CH2Me), 6.2-6.7 (br, 1, NH), 6.29 (d, 1, Ar), 6.60 (d, 1, Ar), 7.32 (d, 1, pyr-H); and 2.04 g (11%) of the ethyl 5,8-dimethoxy-3-quinolinecarboxylate.

reactant | 2,5-Dimethoxyaniline | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 1,4-dihydro-5,8-dimethoxy-4-oxo-3-quinolinecarboxylate | COC1=C2C(C(=CNC2=C(C=C1)OC)C(=O)OCC)=O | C14H15NO5
